US07169761B2
Lithium aluminum hydride (73 mg) was added to a solution of methyl 4-methyl-3-[(2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-[(benzyloxy)methyl]tetrahydro-2H-pyran-2-yl]benzoate (1.3 g) in THF (10 ml) at 0° C. and the mixture was stirred for one hour. The reaction mixture was poured into ice-cooled water and the insoluble matter was separated by filtration. The filtrate was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated. The residue was purified by silica gel column chromatography (n-hexane-ethyl acetate) to obtain (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[5-(hydroxymethyl)-2-methylphenyl]-D-glucitol (1.0 g).

reactant | Lithium aluminum hydride | 73 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 4-methyl-3-[(2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-[(benzyloxy)methyl]tetrahydro-2H-pyran-2-yl]benzoate | 1.3 g | CC1=C(C=C(C(=O)OC)C=C1)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C43H44O7
reactant | water | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[5-(hydroxymethyl)-2-methylphenyl]-D-glucitol | 1.0 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=C(C=CC(=C1)CO)C | C42H44O6
